US07265115B2
tert-butyl (1S,4S)-5-(3-pyridinyl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate
tert-Butyl (1S,4S)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate, prepared as described in J. Med. Chem., (1988) 31, 1598-1611, and 3-bromopyridine (Aldrich Chemical Company) were processed as described in Example 1A to provide the title compound (99% yield). 1H NMR (CDCl3, 300 MHz) δ 1.42 (s, 4.5H), 1.48 (s, 4.5H), 1.91-2.03 (m, 2H),3.14 (d, J=14.7 Hz, 0.5H), 3.23 (d, J=14.7 Hz, 0.5H), 3.37-3.48 (m, 2H), 3.60 (d, 8.45 Hz, 1H), 4.41 (s, 1H), 4.53 (s, 0.5H), 4.67 (s, 0.5H), 6.85 (dd, J=2.94, 8.83 Hz, 1H), 7.09-7.21 (m, 1H), 7.95-8.06 (m, 2H); MS (DCI/NH3) m/z 276 (M+H)+.

reactant | tert-Butyl (1S,4S)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | [C@@H]12N(C[C@@H](NC1)C2)C(=O)OC(C)(C)C | C10H18N2O2
reactant | 3-bromopyridine | BrC=1C=NC=CC1 | C5H4BrN
product | tert-butyl (1S,4S)-5-(3-pyridinyl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | 99% yield | N1=CC(=CC=C1)N1[C@@H]2CN([C@H](C1)C2)C(=O)OC(C)(C)C | C15H21N3O2
